Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ h/o pancreatitis, ETOH abuse (last drink ___, and 
hypertriglyceridemia presents with recurrent abdominal pain.  He 
was admitted ___ for pancreatitis with triglyceride level 
of >6000 for which he underwent plasmapheresis on ___, 
subsequently managed conservatively.  He reports yesterday began 
having acute onset of epigastric pain that began around 2 AM. He 
trialed conservative measures like warm showers without 
improvement. He did not take any pain medication (has a few 
dilaudid left at home from last admission) and felt that his 
abdomen was worsening, so he presented to the ED. He reports 
pain is different from last admission; he does have the same 
constant epigastric pain but is having these new colicky/waves 
of pain across the top quadrants of his abdomen. These waves of 
pain occur every 1 to 5 minutes and are 10 out 10 in severity. 
Waves of pain last approximately 10 seconds and then resolve.  
He does report that he felt he had complete resolution of his 
pain after his last admission about a week after discharge. He 
was taking Tylenol and dilaudid but stopped the dilaudid soon 
after the pain resolved, stopped Tylenol on ___. After his 
last discharge, he changed his diet (reduced sugar, fried foods) 
and stopped drinking ETOH (last drink ___
He was having nausea and one episode of emesis in the ED, which 
he attributes to morphine. He denies current fever. He reports 
chills yesterday. He reports SOB with the waves of pain. He 
denies any CP or diarrhea. He had a BM yesterday ___ and is still 
passing gas but hasn't had any BM since then.

In the ED, initial vitals were: 97.7 100 121/90 16 99% RA
- Exam notable for:
Tearful, discomfort
Significant pain to palpation of the epigastric region, negative
___ sign, no flank tenderness. Abdomen is nonrigid, patient
reports pain when the stretcher is shaken.
- Labs notable for:
8.6 > 14.1/41.6 < 187
138 | 101 | 19
--------------< 132
4.2 | 23 | .8
ALT 20 AST 19 T. bili 0.6, Lipase 47
Lactate 0.9
UA benign
- Imaging was notable for:
CT A/P
1. Necrotizing pancreatitis involving less than 30% of the 
volume of the gland with 2 acute necrotic collections, the 
larger measuring 2.8 x 2.0 cm within the pancreatic.
2. Splenic vein appears chronically occluded with prominent 
collateralization noted. There is marked attenuation at the 
confluence of the superior mesenteric and portal veins. 
Previously noted splenic infarcts are less apparent on the 
current exam.
3. Hepatic steatosis.

CXR:Low lung volumes with mild bibasilar atelectasis. No 
subdiaphragmatic free air.

- Patient was given: IV morphine 4 mg x 1, IV dilaudid 1 mg x 1, 
2L NS
Upon arrival to the floor, patient reports intermittent waves of 
severe abdominal pain.

 
Past Medical History:
Pancreatitis
Hypertriglyceridemia
Alcohol Abuse
Diabetes 
 
 
Social History:
___
Family History:
Problems with gallbladders and hypertension in the family.
 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM
=========================
Vital Signs: 98.5 PO 110 / 69 L Lying 70 18 97 Ra
General: Alert, oriented, intermittently moaning in pain
HEENT: Sclerae anicteric, MMM, EOMI, PERRL.
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-distended, bowel sounds present, TTP 
diffusely. No organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNII-XII grossly intact, moves all extrmeities, gait 
deferred

=========================
DISCHARGE PHYSICAL EXAM
=========================
Vitals:  98.2, 101/51, 54, 20 96 RA 
General: alert, oriented, uncomfortable but nontoxic 
HEENT: sclera anicteric, MMM, oropharynx clear, PERRL, EOMI 
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
rhonchi appreciated though exam limited by patient's pain on 
movement
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mildly tender in epigastric region to palpation, 
moderately distended, bowel sounds present, non-peritoneal 
Ext: warm, well perfused, 2+ radial and ___ pulses, no clubbing, 
cyanosis, minimal pitting edema in ankles
Neuro: CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 01:07PM   PLT COUNT-187#
___ 01:07PM   NEUTS-62.1 ___ MONOS-6.2 EOS-3.6 
BASOS-0.3 IM ___ AbsNeut-5.34# AbsLymp-2.37 AbsMono-0.53 
AbsEos-0.31 AbsBaso-0.03
___ 01:07PM   WBC-8.6 RBC-4.89 HGB-14.1 HCT-41.6 MCV-85 
MCH-28.8 MCHC-33.9 RDW-13.7 RDWSD-42.3
___ 01:07PM   ALBUMIN-4.4
___ 01:07PM   LIPASE-47
___ 01:07PM   ALT(SGPT)-20 AST(SGOT)-19 ALK PHOS-69 TOT 
BILI-0.6
___ 01:07PM   estGFR-Using this
___ 01:07PM   GLUCOSE-132* UREA N-19 CREAT-0.8 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-23 ANION GAP-18
___ 03:09PM   LACTATE-0.9
___ 03:09PM   ___ COMMENTS-GREEN TOP 
___ 04:00PM URINE  MUCOUS-RARE
___ 04:00PM URINE  RBC-1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:00PM URINE  COLOR-Straw APPEAR-Clear SP ___

==============
CHEM PANEL TRENDS
==============
___ 01:07PM BLOOD Glucose-132* UreaN-19 Creat-0.8 Na-138 
K-4.2 Cl-101 HCO3-23 AnGap-18
___ 05:52AM BLOOD Glucose-92 UreaN-16 Creat-0.8 Na-139 
K-3.4 Cl-104 HCO3-25 AnGap-13
___ 05:46AM BLOOD Glucose-92 UreaN-9 Creat-0.8 Na-139 K-3.5 
Cl-101 HCO3-26 AnGap-16
___ 05:59AM BLOOD Glucose-116* UreaN-7 Creat-0.7 Na-143 
K-3.9 Cl-103 HCO3-25 AnGap-19
___ 07:42AM BLOOD Glucose-143* UreaN-5* Creat-0.8 Na-142 
K-3.6 Cl-105 HCO3-25 AnGap-16

==============
LFT TRENDS
==============
___ 01:07PM BLOOD ALT-20 AST-19 AlkPhos-69 TotBili-0.6
___ 05:52AM BLOOD ALT-15 AST-12 LD(___)-138 AlkPhos-66 
TotBili-0.7
___ 05:46AM BLOOD ALT-11 AST-9 AlkPhos-58 TotBili-0.7
___ 05:59AM BLOOD ALT-9 AST-9 LD(___)-128 AlkPhos-59 
TotBili-0.5
___ 07:42AM BLOOD ALT-10 AST-10 LD(LDH)-114 AlkPhos-55 
TotBili-0.3

==============
TRIGLYCERIDES
==============
___ 05:52AM BLOOD Triglyc-323*

==============
HBA1C
==============
___ 05:46AM BLOOD %HbA1c-9.0* eAG-212*

==============
CBC TRENDS
==============
___ 01:07PM BLOOD WBC-8.6 RBC-4.89 Hgb-14.1 Hct-41.6 MCV-85 
MCH-28.8 MCHC-33.9 RDW-13.7 RDWSD-42.3 Plt ___
___ 05:52AM BLOOD WBC-9.0 RBC-4.30* Hgb-12.7* Hct-37.5* 
MCV-87 MCH-29.5 MCHC-33.9 RDW-13.8 RDWSD-43.3 Plt ___
___ 05:46AM BLOOD WBC-7.6 RBC-3.79* Hgb-11.0* Hct-33.1* 
MCV-87 MCH-29.0 MCHC-33.2 RDW-13.6 RDWSD-42.5 Plt ___
___ 05:59AM BLOOD WBC-4.3 RBC-3.68* Hgb-10.9* Hct-31.9* 
MCV-87 MCH-29.6 MCHC-34.2 RDW-13.6 RDWSD-42.3 Plt Ct-93*
___ 07:42AM BLOOD WBC-3.9* RBC-3.60* Hgb-10.4* Hct-31.7* 
MCV-88 MCH-28.9 MCHC-32.8 RDW-13.6 RDWSD-43.5 Plt ___

==============
IMAGING RESULTS
==============
___ CT ABDOMEN/PELVIS WITH CONTRAST
FINDINGS: 
LOWER CHEST: Mild bibasilar atelectasis.  The visualized lung 
fields are
otherwise unremarkable.  There is no evidence of pleural or 
pericardial
effusion.
 
ABDOMEN:
HEPATOBILIARY: The liver demonstrates homogenous hypoattenuation 
throughout. There is no evidence of focal lesions.  There is no 
evidence of intrahepatic or extrahepatic biliary dilatation.  
The gallbladder is within normal limits.
 
PANCREAS: The pancreas is enlarged and heterogeneous with 
substantial adjacent fat stranding and fluid collections in the 
pancreatic body, including a 2.8 x 2.0 cm fluid collection 
replacing the pancreatic body parenchyma which occupies less 
than 30% of the glandular volume (series 5, image 35).  
Additional scattered, poorly defined area of fluid located 
adjacent to the gastric body (series 6b, image 23) is noted.  
Previously noted fluid collection adjacent to the pancreatic 
tail has nearly resolved (series 6b, image 35).  There is marked 
attenuation of the junction of the superior mesenteric and 
portal veins (series 6b, image 33).  The splenic vein is not 
definitively identified, but multiple collaterals are seen.  The 
splenic vein previously appeared attenuated.  Scattered 
pancreatic calcifications reflect the sequela of prior 
pancreatitis.  No pancreatic ductal dilatation is present.
 
SPLEEN: Areas of hypodensity near the splenic hilum likely 
reflecting prior
infarction are less prominent compared to the prior examination. 
 No
splenomegaly.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. There is a 3.3 x 1.9 cm simple cyst arising 
from the interpolar left kidney. No suspicious renal lesion.  No 
hydronephrosis.  No perinephric abnormality. There is no 
perinephric abnormality.
 
GASTROINTESTINAL: A small fluid collection adjacent to the 
greater curvature of the stomach has resolved.  Additional 
ill-defined fluid adjacent to the stomach is new (series 5, 
image 35; series 6b, image 22).  Small bowel loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  The 
colon and rectum are within normal limits.  The appendix is 
normal.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is a small amount of free fluid the pelvis.
 
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
normal.
 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy.
VASCULAR: There is no abdominal aortic aneurysm.  No significant
atherosclerotic disease is noted.
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
SOFT TISSUES: A tiny umbilical hernia containing fat is noted.
 
IMPRESSION:
1. Necrotizing pancreatitis involving less than 30% of the 
volume of the gland with 2 acute necrotic collections, the 
larger measuring 2.8 x 2.0 cm within the pancreatic.
2. Splenic vein appears chronically occluded with prominent 
collateralization noted.  There is marked attenuation at the 
confluence of the superior mesenteric and portal veins.  
Previously noted splenic infarcts are less apparent on the 
current exam.
3. Hepatic steatosis.

 
Brief Hospital Course:
___ with multiple previous episodes of pancreatitis (hyperTG 
and EtOH) and recent admission in ___ for hyperTG-induced 
pancreatitis, and T2DM who presented with abdominal pain from 
necrotizing pancreatitis, likely complication of recent 
hypertriglyceride-induced pancreatitis in ___.

ACUTE ISSUES:
#Necrotizing pancreatitis: Patient with recent discharge for 
hypertriglyceride-induced pancreatitis (___) presents with 
epigastric abdominal pain distinct from his prior episodes of 
acute pancreatitis. CT abdomen demonstrates necrotizing 
pancreatitis, but lipase within normal limits (47), suggesting 
current presentation likely complication of recent acute 
pancreatitis. He was not given prophylactic antibiotics as he 
had no systemic signs/symptoms of infection without 
leukocytosis. On recommendations from Surgery, he was initially 
kept NPO with IV fluids and dilaudid for pain control, and 
slowly advanced to a low-fat diet. He continued taking his home 
gemfibrozil throughout. 

#Chronic Splenic vein thrombosis: Patient has no history of 
upper GI bleeds, though was noted on CT to have splenic vein 
occlusion likely from pancreatitis that can predispose to 
gastric varices. Per hepatology and surgery recs, EGD screening 
and/or anticoagulation not warranted at this time.

CHRONIC ISSUES:
#Type 2 diabetes mellitus: Patient found on last admission to 
have uncontrolled DM with A1c of 10.4% and was started on qHS 
lantus during last admission. HbA1c during this admission was 
9.0. Home metformin and lantus were held during this admission, 
and he was kept on a humalog insulin sliding scale. His 
fingerstick blood glucose levels remained within normal limits 
during admission.

#Alcohol use: Patient has a history of alcohol use but had no 
signs of withdrawal while inpatient.

TRANSITIONAL ISSUES:
[] He will follow up with Dr. ___ in early ___ for 
follow up of his necrotizing pancreatitis and follow up imaging.
[] HbA1c during admission noted to be 9.0; may need titration of 
insulin regimen as outpatient.
[] Noted to have chronic splenic vein occlusion on his CT on 
admission with collaterals. Discussed with pancreaticobiliary 
surgery team: no indication for EGD screening for gastric 
varices or anticoagulation for chronic occlusion.

# CODE: full (confirmed)
# CONTACT: ___. Sister works as NP cp# 
___

>30 minutes spent on discharge planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gemfibrozil 600 mg PO BID 
2. Acetaminophen 1000 mg PO TID 
3. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
4. Ondansetron ODT 4 mg PO Q8H:PRN Nausea 
5. Fish Oil (Omega 3) 1000 mg PO TID 
6. MetFORMIN (Glucophage) 500 mg PO BID 
7. Glargine 10 Units Bedtime

 
Discharge Medications:
1.  Glargine 10 Units Bedtime
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
10 Units before BED; Disp #*2 Syringe Refills:*0 
2.  Acetaminophen 1000 mg PO TID  
3.  Fish Oil (Omega 3) 1000 mg PO TID  
4.  Gemfibrozil 600 mg PO BID  
5.  HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *hydromorphone 2 mg ___ tablet(s) by mouth q6 hours Disp #*14 
Tablet Refills:*0 
6.  MetFORMIN (Glucophage) 500 mg PO BID  
7.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
necrotizing pancreatitis
Hypertriglyceridemia

SECONDARY DIAGNOSES
type 2 diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

You were admitted to ___ with abdominal pain. You were found 
to have poor blood flow to parts of your pancreas which is a 
complication of your prior pancreatitis.  

Your pain improved with meds and by letting your gut heal.  

It was a pleasure to care you,

Your ___ Team
 
Followup Instructions:
___